US04472399
10.8 g. (0.03 mole) 6,6-Dibromo-6,7,8,9-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline and 13.0 g. (0.12 mole] of phenyl hydrazine are heated in 120 ml ethanol for 4 hours. The precipitated crystals are filtered after cooling. When evaporating the mother liquor further crystals are precipitating, which are filtered and washed with some alcohol. The combined filtered product is suspended in 150 ml. of water containing 8.4 g. (0.06 mole) of sodium acetate whereafter it is filtered and washed with water. 8.4 g. (81%) of 6-phenylhydrazono-6,7,8,9-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline are obtained which after recrystallization from isopropanol melts at 177°-179° C. and which does not give a degression of melting point when admixed with the product according to Example 16.

reactant | 6,6-Dibromo-6,7,8,9-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline | 0.03 mole | BrC1(CCCN2C1=NC1=CC=CC=C1C2=O)Br | C12H10Br2N2O
reactant | phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium acetate | 0.06 mole | C(C)(=O)[O-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 6-phenylhydrazono-6,7,8,9-tetrahydro-11-oxo-11H-pyrido[2,1-b]quinazoline | 81% | C1(=CC=CC=C1)NN=C1CCCN2C1=NC1=CC=CC=C1C2=O | C18H16N4O
